US09024033B2
4-{2-amino-5- [4-(methylsulfonyl)phenyl]pyridin-3-yl}benzamide
Aqueous K2CO3 solution (1 M, 0.4 mL) was added to a suspension of 3-bromo-5-[4-(methylsulfonyl)phenyl]pyridin-2-amine obtained as described above (0.15 g, 0.46 mmol), 4-aminocarbonylphenylboronic acid (0.120 g, 0.51 mmol) and Pd[(PPh)3]4 (0.016 g, 0.02 mmol) in dioxane (5 mL) and DMF (2 mL) under N2. The reaction mixture was stirred at 120 ° C. for 14 h, poured onto H2O (10 mL) and extracted with MeOH/CHCl3 (1:4) (3×20 mL). The combined organic layers were washed with brine (20 mL), dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by column chromatography on silica gel (5% MeOH/EtOAc) to yield the desired product (0.26 g, 56%). 1H NMR (400 MHz, DMSO-d6): δ 8.45 (d, 1H, J=2.4 Hz), 8.07 (s, 1H), 8.02-7.92 (m, 6H), 7.78 (d, 1H, J=2.4 Hz), 7.64 (d, 2H, J=8.4 Hz), 7.44 (bs, 1H), 6.11 (bs, 2H) and 3.24 (s, 3H). LC-MS APCI: Calculated for C19H17N3O3S, 367; Observed m/z 368 [M+H]+.

reactant | K2CO3 | 1 M, 0.4 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-5-[4-(methylsulfonyl)phenyl]pyridin-2-amine | BrC=1C(=NC=C(C1)C1=CC=C(C=C1)S(=O)(=O)C)N | C12H11BrN2O2S
reactant | 4-aminocarbonylphenylboronic acid | 0.51 mmol, 0.120 g | NC(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-{2-amino-5- [4-(methylsulfonyl)phenyl]pyridin-3-yl}benzamide | 0.26 g, 56% | NC1=NC=C(C=C1C1=CC=C(C(=O)N)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C19H17N3O3S
